US04510158
A mixture of 9.0 g (0.043 mol) of 1-methyl-2-phenylindole, 9.3 g (0.05 mol) 4,4-cyclohexanonedicarboxylic acid, 100 mL of acetic acid, 4.7 mL of acetic anhydride, and 1 mL of 85% phosphoric acid was stirred at room temperature for 17 h, and then 100 mL of water was added dropwise to give a white solid which was collected and washed with water. The solid was taken up in ether, washed with water three times and with brine two times, dried over magnesium sulfate, concentrated in vacuo, and crystallized from acetonitrile to give 8.4 g (52%) of 4-(1methyl-2-phenyl-1H-indol-3-yl)-3-cyclohexene-1,1-dicarboxylic acid, m.p. 210°-211° C.

reactant | 1-methyl-2-phenylindole | 0.043 mol, 9.0 g | CN1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C15H13N
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 4.7 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | phosphoric acid | 1 mL | P(O)(O)(O)=O | H3O4P
solvent | water | 100 mL | O | H2O
product | 4-(1methyl-2-phenyl-1H-indol-3-yl)-3-cyclohexene-1,1-dicarboxylic acid | 8.4 g, 52% | CN1C(=C(C2=CC=CC=C12)C1=CCC(CC1)(C(=O)O)C(=O)O)C1=CC=CC=C1 | C23H21NO4
